US04880838
Part D: Preparation of 8-[3-bromo-4-(2-chloro-4-nitrophenoxy)-2,5-dimethylphenyl]-8-azabicyclo[4.3.0]-nonan-7,9-dione
To a solution of 3-bromo-4-(2-chloro-4-nitrophenoxy)-2,5-dimethylaniline (4.7 grams, 12.65 mmol) prepared in Part C in toluene (40 milliliters) was added cis-1,2-cyclohexane dicarboxylic anhydride (20.48 grams, 132.83 mmol) and a spatula tipful of toluene sulfonic acid. The reaction mixture was heated at reflux overnight and allowed to cool; washed with 5% NaOH solution (5x), water (3x) and brine (1x); dried over Na2SO4 and concentrated under reduced pressure to afford the crude desired product as a thick brown oil (5.43 grams, 10.69 mmol, 84%) which crystallized on standing and had a melting point of 187° C.-190° C. H'-NMR (CDCl3) 8.40 (d, J=2 Hz, 1H), 8.02 (d,d; J=2, 9 Hz, 1H), 7.00 (br, 5, 1H), 6.55 (d, J=9 Hz, 1H), 3.10 (M, 2H), 2.21 (brS, 6H), 1.93 (M, 4H), 1.58 (m, 4H).

reactant | 3-bromo-4-(2-chloro-4-nitrophenoxy)-2,5-dimethylaniline | 12.65 mmol, 4.7 grams | BrC=1C(=C(N)C=C(C1OC1=C(C=C(C=C1)[N+](=O)[O-])Cl)C)C | C14H12BrClN2O3
reactant | cis-1,2-cyclohexane dicarboxylic anhydride | 132.83 mmol, 20.48 grams | [C@@H]12[C@@H](CCCC1)C(=O)OC2=O | C8H10O3
reactant | toluene sulfonic acid | C=1(C(=CC=CC1)S(=O)(=O)O)C | C7H8O3S
solvent | toluene | 40 milliliters | C1(=CC=CC=C1)C | C7H8
product | 8-[3-bromo-4-(2-chloro-4-nitrophenoxy)-2,5-dimethylphenyl]-8-azabicyclo[4.3.0]-nonan-7,9-dione | 10.69 mmol, 5.43 grams, 84% | BrC=1C(=C(C=C(C1OC1=C(C=C(C=C1)[N+](=O)[O-])Cl)C)N1C(C2CCCCC2C1=O)=O)C | C22H20BrClN2O5
